Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins / iodine / 
shellfish derived
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___, generally health presenting with acute pancreatitis. 
2 days ago out of her normal state of health she noticed that 
she was experiencing chills. One day ago at approximately 3 pm 
she started to vomit which laster for about 3 hours. She has not 
vomitted since yesterday, but she has had a dull ___ epigastric 
constant pain since then radiating to her back. Lying on her 
side make it feel worse, nothing makes it feel better. She has 
not had any fever, shortness of breath, dysuria, hematuria, 
vaginal bleeding or discharge. 
On admission to ED VS:  14:56 7 98.0 93 116/85 18 98% ra, PE 
notable for epigastric tenderness
Labs notable for lactate of 2.7, leukocytosis 13.2 neu 89%, Hct 
51, mod pos UA with SG 1.031, lipase 651. 
RUQ ultrasound - Mildly prominent pancreatic duct. In the 
setting of an elevated lipase concerning for acute pancreatitis.
CXR - non acute. 
.
She denies alcohol and smoking. She does not have any personal 
of family history of gallstones. She denies any medications or 
supplements except as below. 

 
Past Medical History:
MIGRAINE HEADACHES                                              
OSTEOPENIA                                                      
VITAMIN D DEFICIENCY                                            
H/O ANGIOEDEMA                                                  
H/O IDIOPATHIC THROMBOCYTOPENIA PURPURA                         
H/O FIBROADENOMA                  
 
Social History:
Marital status:     Married                                     
Children:           Yes, Description: 2                         
Lives with:         ___ Children                  
Work: ___
Sexual activity:    Past                                        
Sexual orientation: Male                                        
Domestic violence:  Denies                                      
Tobacco use:        Never smoker                                
Alcohol use:        Present                                     
Alcohol use         Holidays                                    
comments:                                                       
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Patient does not report symptoms of         
                    depression                                  
Exercise:           Activities                                  
Exercise comments:   walksdog                                   
Diet:               healthy                                     
Seat belt/vehicle   Always                                      
restraint use:                               
 
Family History:
___                     COLON CANCER                            

 
Physical Exam:
99.6  124/82   91  16  96RA
General- Alert, oriented, no acute distress
HEENT- Sclera anicteric, MMM, oropharynx clear
Neck- supple, JVP not elevated, no LAD
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen- soft, significant epigastric tenderness, non-distended, 
bowel sounds present, no rebound tenderness or guarding, no 
organomegaly
GU- no foley
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro- CNs2-12 intact, motor function grossly normal

 
Pertinent Results:
___ 04:08PM BLOOD WBC-13.2*# RBC-5.11 Hgb-17.0* Hct-51.4* 
MCV-101* MCH-33.3* MCHC-33.1 RDW-12.4 Plt ___
___ 04:08PM BLOOD Neuts-89.0* Lymphs-5.9* Monos-4.3 Eos-0.5 
Baso-0.3
___ 04:08PM BLOOD Glucose-152* UreaN-21* Creat-0.9 Na-140 
K-4.1 Cl-99 HCO3-30 AnGap-15
___ 04:08PM BLOOD ALT-19 AST-19 AlkPhos-95 TotBili-1.1
___ 04:08PM BLOOD Lipase-655*
___ 04:12PM BLOOD Lactate-2.7*

Prelim RUQ u/s:  Mildly prominent pancreatic duct. In the 
setting of an elevated lipase, these
findings are concerning for acute pancreatitis.

No evidence of cholecystitis. A small gallbladder polyp is noted 
without
thickening of the gallbladder wall.
 
Brief Hospital Course:
___ generally healthy who presents with two days of epigastric 
pain and vomiting with laboratory and ultrasonographic picture 
concerning for acute pancreatitis. 

Acute Pancreatitis

Initially patient was kept NPO and received IV narcotics. On 
HD#2 she was feeling better and able to transition to PO pain 
medications (which she took very rarely) and a clear diet. She 
was discharged home able to tolerate POs.

There was no clear etiology of her pancreatitis. She denied any 
Etoh use and her RUQ ultrasound was unremarkable. Triglycerides 
and calcium were normal. A follow-up appointment was made with 
the pancreatic clinic at ___ to see if further work-up is 
necesssary and whether there is any role of cholecystectomy 
after this first time unexplained pancreatitis episode.

Possible UTI

She had some WBC in her urine and culture grew group b strep. 
Though she was relatively asx (she reported some blood in 
urine), I chose to treat with ciprofloxacin x 3 days for 
uncomplicated UTI (pen allergic). 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Loratadine 10 mg PO DAILY:PRN allergy/sinusitis 
2. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Ciprofloxacin HCl 250 mg PO Q12H 
RX *ciprofloxacin [Cipro] 250 mg 1 tablet(s) by mouth twice a 
day Disp #*6 Tablet Refills:*0
2. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth every six 
(6) hours Disp #*10 Tablet Refills:*0
3. Loratadine 10 mg PO DAILY:PRN allergy/sinusitis 
4. Vitamin D ___ UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatitis, UTI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for pancreatitis. Why you developed 
pancreatitis is unclear. As we discussed in some cases, the 
cause is unknown. 
 
Followup Instructions:
___